US07799822B2
Synthesized according to general procedure 70. Under an N2 atmosphere, a mixture of the 3-fluoro-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (5.0 g, 16.4 mmol) and 2-aminothiazole (1.64 g, 16.4 mmol), and pyridine (9.6 mL) was stirred at RT for 19 h. Purification via silica gel chromatography using 0-10% MeOH in CH2Cl2 gave 2,2,2-trifluoro-N-(2-fluoro-4-(N-thiazol-2-ylsulfamoyl)phenyl)acetamide (3.28 g, 54%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=370.1; tR=1.07 min.

reactant | 3-fluoro-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 16.4 mmol, 5.0 g | FC=1C=C(C=CC1NC(C(F)(F)F)=O)S(=O)(=O)Cl | C8H4ClF4NO3S
reactant | 2-aminothiazole | 16.4 mmol, 1.64 g | NC=1SC=CN1 | C3H4N2S
solvent | pyridine | 9.6 mL | N1=CC=CC=C1 | C5H5N
product | 2,2,2-trifluoro-N-(2-fluoro-4-(N-thiazol-2-ylsulfamoyl)phenyl)acetamide | 3.28 g, 54% | FC(C(=O)NC1=C(C=C(C=C1)S(NC=1SC=CN1)(=O)=O)F)(F)F | C11H7F4N3O3S2
